Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Prozac / nafcillin / vancomycin / daptomycin
 
Attending: ___.
 
Chief Complaint:
arm pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Ms ___ is a ___ yo female with h/o
MVA and chronic pain, s/p spinal cord stimulator placement
complicated by ___ meningitis/ osteomyelitis currently being
treated with daptomycin, brought to the ___ given elevated CPK at
2700 detected on routine OPAT labs and shoulder/bilateral arm
pain concerning for daptomycin induced rhabdomyolysis. She has 
no
history of trauma, immobilization,  alcohol use, or other meds
which could cause rhabdo. Of note, pt was on vancomycin before
daptomycin and had a full body rash and fever. Prior to that was
on nafcillin which also gave her a full body rash. She reports
she is on week 5 of 6 of antibiotics. Last dose of daptomycin 
was
last night. CPK elevated today at 4392, which is higher than 
this
morning when it was about 2700. Renal function and potassium 
WNL.

In the ___, initial vitals were: 98.2 86 114/65 18 98% RA.  Pt 
was
givne 1 L NS, dilaudid for pain.  Case was discussed with ___ who
recommended abx treatment with cefazolin 2g q8 hrs.
 
On the floor, she c/o pain in shoulders and anterior neck x3
days.  No EtOh use.  No recent racent rashes.  Mild nausea, no
diarrhea.  

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or
gain. Denies headache, sinus tenderness, rhinorrhea or
congestion. Denies cough, shortness of breath. Denies chest pain
or tightness, palpitations. Denies nausea, vomiting, diarrhea,
constipation or abdominal pain. No recent change in bowel or
bladder habits. No dysuria. Denies arthralgias or myalgias. 10 
pt
ros otherwise negative.

 
Past Medical History:
Multiple musculoskeletal problems following car accident several 
years ago. 
Chronic lumbar back pain
Fractured right hip
Right hip bursitis
Celiacs disease
Spinal cord stimulator
Chronic constipation
Menigitis/osteomyelitis
CRPS (R leg) s/p spinal cord stimulator, dystonia
 
Social History:
___
Family History:
Mother- deceased. EtOH cirrhosis and oral cancer, HTN
Father- deceased. EtOH cirrhosis and diabetes, HTN
Reports alcohol abuse history in her 5 brothers

 
Physical ___ PHYSICAL EXAM:
Vitals: 97.9 PO 102 / 66 74 20 100 RA 
Constitutional: Alert, oriented, no acute distress
EYES: Sclera anicteric,  EOMI, PERRL
ENMT: MMM, oropharynx clear, normal hearing, normal nares
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes,
rales, rhonchi
GI: Soft, non-tender, non-distended, bowel sounds present, no
organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE, TTP in RLE (CRPS)
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: no rashes or lesions
MSK: TTP over neck and arm musculature, no joint pain in
shoulders with passive motion

Discharge Physical Exam: 
Constitutional: Alert, oriented, no acute distress
EYES: Sclera anicteric,  EOMI, PERRL
ENMT: MMM, oropharynx clear, normal hearing, normal nares
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes,
rales, rhonchi
GI: Soft, non-tender, non-distended, bowel sounds present, no
organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE, TTP in RLE (CRPS)
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: no rashes or lesions
MSK: TTP over neck and arm musculature, no joint pain in
shoulders with passive motion
 
Pertinent Results:
Admission Labs: 
___ 02:05PM BLOOD WBC-7.3 RBC-3.16* Hgb-9.5* Hct-30.1* 
MCV-95 MCH-30.1 MCHC-31.6* RDW-13.9 RDWSD-48.4* Plt ___
___ 02:05PM BLOOD Neuts-63.2 ___ Monos-7.5 Eos-6.6 
Baso-2.7* Im ___ AbsNeut-4.62 AbsLymp-1.44 AbsMono-0.55 
AbsEos-0.48 AbsBaso-0.20*
___ 02:05PM BLOOD Glucose-112* UreaN-21* Creat-0.8 Na-140 
K-4.5 Cl-107 HCO3-23 AnGap-10
___ 02:05PM BLOOD CK(CPK)-4392*
___ 02:05PM BLOOD Calcium-9.6 Phos-4.1 Mg-1.8

CK Trend: 
___ 02:05PM BLOOD CK(CPK)-4392*
___ 01:14AM BLOOD CK(CPK)-3583*
___ 06:37AM BLOOD CK(CPK)-3021*
___ 02:30PM BLOOD CK(CPK)-3534*
___ 05:29AM BLOOD ALT-15 AST-62* ___ AlkPhos-114* 
TotBili-<0.2

DISCHARGE LABS:
___ 06:40AM BLOOD WBC-5.2 RBC-2.74* Hgb-8.1* Hct-25.9* 
MCV-95 MCH-29.6 MCHC-31.3* RDW-14.2 RDWSD-49.2* Plt ___
___ 06:40AM BLOOD Neuts-27.8* ___ Monos-9.4 
Eos-19.8* Baso-2.5* Im ___ AbsNeut-1.46* AbsLymp-2.11 
AbsMono-0.49 AbsEos-1.04* AbsBaso-0.13*
___ 06:40AM BLOOD Glucose-82 UreaN-10 Creat-0.8 Na-145 
K-4.4 Cl-107 HCO3-27 AnGap-11
___ 06:40AM BLOOD ALT-9 AST-47* CK(CPK)-1034* AlkPhos-118* 
TotBili-<0.___ yo female with h/o MVA and chronic pain, s/p spinal cord 
stimulator placement complicated by MSSA meningitis/ 
osteomyelitis currently being treated with daptomycin, brought 
to the ___ given elevated CPK at 2700 detected on routine OPAT 
labs and shoulder/bilateral arm pain concerning for daptomycin 
induced rhabdomyolysis.

# Rhabdomyolysis likely due to daptomycin: no associated 
electrolyte abnormalities and she did not develop and ___. She 
was given IVF and her CK trended down. IVF was stopped and she 
improved. Her daptomycin was stopped and changed to cefazolin as 
below. She had a reaction to cefazolin as below and was changed 
to linezolid. CK consistent trending down on PO fluids with no 
signs of renal disyfunction on discharge. Discharge CK 1000.  

# MSSA meningitis/osteo: Discussed with ID who recommended 
switching abx to cefazolin to complete her course to ___. While 
in the hospital on this medication she developed puritis and her 
eosinophil level rose and she was changed to PO linezolid with 
an end date of ___. She will follow up in ___ clinic and will 
have repeat CBC with Diff, LFTs and BUN/Cr.

# Eosinophilia: Mild absolute eosinophilia in the setting of 
starting cefazolin. This was stopped and she was changed to 
linezolid. She will have follow up eosinophil level at ID 
appointment 3 days post discharge. 

# Dystonic Episode: She had an episode of a dystonic episode in 
her neck It was treated with 1mg IV Ativan and 0.5mg IV dilaudid 
with improvement in symptoms. She reported that they were more 
severe than typical. As her CK trended down they resolved and 
may have been related. No further episodes in the hospital.  

# Anemia: above recent ___, no e/o active bleeding. Monitored in 
the hospital. 

# CRPS: continued home lidocaine, naproxen, oxycodone, lyrica, 
tramadol, Lorazepam

# constipation: Held home linaclotide given non-formulary. 
Resumed on discharge. 

Transitional Issues:
[] F/u eosinophil level at ID follow up appointment
[] Complete course of linezolid on ___. 

Greater than 30 minutes was spent in care coordination and 
counseling on the day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lidocaine 5% Patch 1 PTCH TD QAM 
2. linaCLOtide 145 mcg oral DAILY 
3. LORazepam 0.5 mg PO BID 
4. Naproxen 500 mg PO BID 
5. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
6. Pregabalin 100 mg PO TID 
7. TraMADol 100 mg PO BID 
8. TraMADol 50 mg PO QPM 
9. Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID 
10. DiphenhydrAMINE 25 mg PO Q6H:PRN itching 
11. Daptomycin 350 mg IV Q24H 
12. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1.  Linezolid ___ mg PO Q12H 
Completes course on ___ 
RX *linezolid ___ mg 1 tablet(s) by mouth Every 12 hours Disp 
#*11 Tablet Refills:*0 
2.  DiphenhydrAMINE 25 mg PO Q6H:PRN itching  
3.  Docusate Sodium 100 mg PO BID  
4.  Lidocaine 5% Patch 1 PTCH TD QAM  
5.  linaCLOtide 145 mcg oral DAILY  
6.  LORazepam 0.5 mg PO BID  
7.  Naproxen 500 mg PO BID  
8.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate  
9.  Pregabalin 100 mg PO TID  
10.  TraMADol 100 mg PO BID  
11.  TraMADol 50 mg PO QPM  
12.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Rhabdomyolysis due to daptomycin

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___, 

It was a pleasure taking care of you while you were in the 
hospital. You were hospitalized following labs hat showed muscle 
inflammation due to the antibiotic (daptomycin) that you were 
on. You were changed to cefazolin and you also had a reaction. 
You were changed to linezolid and you tolerated the medication 
well. You will follow up with the infectious disease doctors as 
___ outpatient and have labs drawn at that time. 

Please take your medications as directed and follow up as 
directed below. 
 
Followup Instructions:
___